US06313122B1
B. 2,3-bis[(4-methoxybenzoyl)amino]phenol
A solution of 2,3-bis[(4-methoxybenzoyl)amino]phenoxy 4-methoxybenzoate (7.75 g, 14.7 mmol) in methanol (100 mL) was cooled to ice-water bath temperature and 5 N aqueous sodium hydroxide solution (3.0 mL) was added. The reaction mixture was allowed to warm to room temperature and stirred for 72 hr. The reaction mixture was concentrated in vacuo and the resulting solid was dissolved in methylene chloride and washed with dilute aqueous hydrochloric acid, water, and saturated sodium chloride solution. The organic layer was dried (sodium sulfate), filtered, and concentrated in vacuo. Recrystallization of the residue from diethyl ether/hexane gave 2.3 g (40%) of the title product. mp 208-209° C.

reactant | 2,3-bis[(4-methoxybenzoyl)amino]phenoxy 4-methoxybenzoate | 14.7 mmol, 7.75 g | COC1=CC=C(C(=O)OOC2=C(C(=CC=C2)NC(C2=CC=C(C=C2)OC)=O)NC(C2=CC=C(C=C2)OC)=O)C=C1 | C30H26N2O8
reactant | sodium hydroxide | 5 N, 3.0 mL | [OH-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | 2,3-bis[(4-methoxybenzoyl)amino]phenol | 2.3 g, 40% | COC1=CC=C(C(=O)NC2=C(C=CC=C2NC(C2=CC=C(C=C2)OC)=O)O)C=C1 | C22H20N2O5
